US06806024B1
18.0 g (0.0722 mol) of hexyl α-(hydroxyimino)-2-phenylacetate are reacted with 15.1 g of p-toluenesulfonic acid chloride as described in example 1.3 to give 23.2 g (80%) of hexyl α-(4-methylphenylsulfonyloxyimino)-2-phenylacetate as a colorless liquid after purification by chromatography. According to 1H-NMR-analysis, the product is a mixture of 69% of the trans isomer and 31% of the cis isomer.

reactant | hexyl α-(hydroxyimino)-2-phenylacetate | 0.0722 mol, 18.0 g | ON=C(C(=O)OCCCCCC)C1=CC=CC=C1 | C14H19NO3
reactant | p-toluenesulfonic acid chloride | 15.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | hexyl α-(4-methylphenylsulfonyloxyimino)-2-phenylacetate | 23.2 g, 80% | CC1=CC=C(C=C1)S(=O)(=O)ON=C(C(=O)OCCCCCC)C1=CC=CC=C1 | C21H25NO5S
